US09376422B2
Step 1: 5-bromo-2,4-dimethylbenzoic acid
To the stirred solution of NaOH (60 g) in water (1152 ml) was added bromine (36 ml) dropwise at 0° C. and stirred the reaction mixture for 45 min. at same temperature. 2,4-dimethylbenzoic acid (12 g, 79.9 mmol) was added in above reaction mixture at 0° C. portion wise and stirred the reaction at room temperature for 3 h. After completion of reaction of reaction (TLC) reaction mixture was acidified using conc. HCl, solid was filtered through Buchner funnel and wash with water and dried to afford the desired compound (12 g, 65%) which was used without further purification.

reactant | NaOH | 60 g | [OH-].[Na+]
reactant | bromine | 36 ml | BrBr | Br2
reactant | 2,4-dimethylbenzoic acid | 79.9 mmol, 12 g | CC1=C(C(=O)O)C=CC(=C1)C | C9H10O2
reactant | HCl | Cl | ClH
solvent | water | 1152 ml | O | H2O
product | 5-bromo-2,4-dimethylbenzoic acid | 12 g, 65% | BrC=1C(=CC(=C(C(=O)O)C1)C)C | C9H9BrO2
